US06878830B2
To a small Schlenk tube equipped with a stir bar, in a glove box, was added HBPin (224 mg, 1.75 mmol) to mixture of 1,3-bis(trifluoromethyl)benzene (250 mg, 1.17 mmol), Ir(COD)(Indenyl) (9.7 mg, 0.023 mmol), and dppe (9.3 mg, 0.23 mmol). The tube was sealed and heated at 100° C. for 6 h. The reaction solution was allowed to cool to room temperature and Pd(PPh3)4 (27.0 mg, 0.234 mmol), iodobenzene (217 mg, 1.06 mmol), Ba(OH)2.8H2O (552 mg, 1.75 mmol), and toluene (10 mL) were added. The mixture was stirred at 90-95° C. for 16.5 h. The mixture was allowed to cool, additional Ba(OH)2.8H2O (200 mg, 0.634 mmol) was added, and the solution stirred for 2 h at 90-95° C. Solvent was removed by rotary evaporation and the crude material subjected to column chromatography eluting with hexanes. 3,5-Bis(Trifluoromethyl)biphenyl was obtained (46 mg, 15%) as a colorless oil. The assignment was verified by comparison to the GC retention time and 1H NMR data to an authentic sample prepared from 3,5-bis(trifluoromethyl)phenyl pinacolborane and iodobenzene. 1H NMR (CDCl3, 300 MHz) 8 8.00 (s, 2H), 7.93 (s, 1H), 7.85-7.58 (m, 2H), 7.53-7.42 (m, 3H).

reactant | 1,3-bis(trifluoromethyl)benzene | 1.17 mmol, 250 mg | FC(C1=CC(=CC=C1)C(F)(F)F)(F)F | C8H4F6
reactant | dppe | 0.23 mmol, 9.3 mg | CCN(CC)CCOC=1C=CC(=CC1)CC=2C=CC=CC2.Cl
reactant | iodobenzene | 1.06 mmol, 217 mg | IC1=CC=CC=C1 | C6H5I
catalyst | Pd(PPh3)4 | 0.234 mmol, 27.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 3,5-Bis(Trifluoromethyl)biphenyl | FC(C=1C=C(C=C(C1)C(F)(F)F)C1=CC=CC=C1)(F)F | C14H8F6
